US08604055B2
Step (iii): Preparation of (3-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-cyclobutylmethyl-ethyl-amine
A mixture of {3-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-8-methyl-quinolin-2-yl}-cyclobutylmethyl-ethyl-amine (0.23 g, 0.46 mmol), 5-bromo-2-chloropyrimidine (0.09 g, 0.46 mmol), and potassium fluoride (0.11 g, 1.8 mmol) in dimethyl formamide (10 ml) was heated at 80° C. overnight. After cooling the reaction to ambient temperature water (10 mL) and EtOAc (20 mL) were added and stirred for 0.5 h. Thereafter, the organic layer was separated, washed with brine, dried over sodium sulfate, filtered and solvent evaporated in vacuo. The crude was purified by chromatography using silica gel to afford the title compound as a colorless liquid (0.14 g, 47%).

reactant | {3-[(3,5-bis-trifluoromethyl-benzylamino)-methyl]-8-methyl-quinolin-2-yl}-cyclobutylmethyl-ethyl-amine | 0.46 mmol, 0.23 g | FC(C=1C=C(CNCC=2C(=NC3=C(C=CC=C3C2)C)N(CC)CC2CCC2)C=C(C1)C(F)(F)F)(F)F | C27H29F6N3
reactant | 5-bromo-2-chloropyrimidine | 0.46 mmol, 0.09 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | potassium fluoride | 1.8 mmol, 0.11 g | [F-].[K+]
reactant | water | 10 mL | O | H2O
solvent | dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (3-{[(3,5-bis-trifluoromethyl-benzyl)-(5-bromo-pyrimidin-2-yl)-amino]-methyl}-8-methyl-quinolin-2-yl)-cyclobutylmethyl-ethyl-amine | 0.14 g, 47% | FC(C=1C=C(CN(C2=NC=C(C=N2)Br)CC=2C(=NC3=C(C=CC=C3C2)C)N(CC)CC2CCC2)C=C(C1)C(F)(F)F)(F)F | C31H30BrF6N5
